US07910561B2
To a dry flask was added 4-(5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde (308 mg, 0.94 mmol) and 2-methoxy-5-(5-piperidin-4-yl-4H-1,2,4-triazol-3-yl)pyridine trifluoroacetate (350 mg, 0.94 mmol) in 5% NEt3:DMF (5 mL). The solution was stirred for 15 min. then 5% AcOH:DMF (10 mL) was added. This was stirred for 1 h and sodium triacetoxyborohydride was added and the reaction mixture was stirred for 16 h at room temperature. The mixture was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate solution and then extracted (×3) with CH2Cl2, the organic layers combined and dried over anhydrous Na2SO4. This was filtered, concentrated and purified by silica gel chromatography (2-4% MeOH in CH2Cl2) to give 2-[4-({4-[5-(6-methoxypyridin-3-yl)-4H-1,2,4-triazol-3-yl]piperidin-1-yl}methyl)phenyl]-3-phenyl-1,6-naphthyridin-5(6H)-one. NMR (MeOD): δ 8.73-8.72 (1H, d, J=3 Hz), 8.52 (1H, s) 8.25-824 (1H, d, J=3 Hz), 7.43-7.41 (1H, d, J=6), 7.33-714 (1H, m), 6.80 (2H, m), 3.93 (3H, s), 3.6 (2H, s), 3.02-2.98 (2H, m), 2.86 (1H, m), 2.27 (2H, m), 2.05 (2H, m), 1.93 (3H, m). m/e (m+1): 570.1.

reactant | 4-(5-oxo-3-phenyl-5,6-dihydro-1,6-naphthyridin-2-yl)benzaldehyde | 0.94 mmol, 308 mg | O=C1C=2C=C(C(=NC2C=CN1)C1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C21H14N2O2
reactant | 2-methoxy-5-(5-piperidin-4-yl-4H-1,2,4-triazol-3-yl)pyridine trifluoroacetate | 0.94 mmol, 350 mg | FC(C(=O)O)(F)F.COC1=NC=C(C=C1)C1=NN=C(N1)C1CCNCC1
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | NEt3 | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | AcOH | CC(=O)O | C2H4O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[4-({4-[5-(6-methoxypyridin-3-yl)-4H-1,2,4-triazol-3-yl]piperidin-1-yl}methyl)phenyl]-3-phenyl-1,6-naphthyridin-5(6H)-one | COC1=CC=C(C=N1)C=1NC(=NN1)C1CCN(CC1)CC1=CC=C(C=C1)C1=NC=2C=CNC(C2C=C1C1=CC=CC=C1)=O | C34H31N7O2
